US08859591B2
4-bromo-iodobenzene (1.42 g, 5.00 mmol) was dissolved in tetrahydrofuran (50 mL) and cooled to −40° C. A solution of isopropylmagnesium chloride lithium chloride (5 mL, 1.3 M in THF) was added dropwise over 5 minutes. The mixture was stirred at −40° C. for 30 minutes, then 3-methylbutanal (0.81 mL, 7.5 mmol) was added. The reaction was allowed to warm to room temperature and stir for 1 hour. The reaction was then quenched by addition of saturated ammonium chloride (10 mL) and water (40 mL). The mixture was diluted with ethyl acetate (50 mL), and the layers were separated. The organics were washed with water (50 mL) and brine (25 mL), dried over sodium sulfate, filtered and concentrated. Purification by column chromatography (0-50% ethyl acetate in heptane) gave (+/−)-1-(4-bromophenyl)-3-methylbutan-1-ol (958 mg, 79%) as a clear oil. 1H NMR (400 MHz, CDCl3, δ): 7.47-7.41 (m, 2H), 7.22-7.17 (m, 2H), 4.68 (dd, J=8.1, 5.4 Hz, 1H), 1.97 (br.s, 1H), 1.71-1.61 (m, 2H), 1.49-1.39 (m, 1H), 0.94-0.90 (m, 6H).

reactant | 4-bromo-iodobenzene | 5.00 mmol, 1.42 g | BrC1=CC=C(C=C1)I | C6H4BrI
reactant | isopropylmagnesium chloride lithium chloride | 1.3 M, 5 mL | [Cl-].[Li+].C(C)(C)[Mg]Cl
reactant | 3-methylbutanal | 7.5 mmol, 0.81 mL | CC(CC=O)C | C5H10O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | (+/−)-1-(4-bromophenyl)-3-methylbutan-1-ol | 958 mg, 79% | BrC1=CC=C(C=C1)C(CC(C)C)O | C11H15BrO
